US09085583B2
To the solution of tert-butyl 4-(1-aminoethyl)piperidine-1-carboxylate (5 g, 21.9 mmol) in ethanol (50 ml) were added 5-bromo-2,4-dichloropyrimidine (5.97 g, 26.3 mmol), and N-ethyl-N-isopropylpropan-2-amine (8.48 g, 65.7 mmol). The resulting mixture was stirred at room temperature overnight. The reaction mixture was concentrated in vacuum, and the crude product was added to water (100 ml). The aqueous layer was extracted with ethyl acetate (50 mL×4) and organic layer was dried over sodium sulfate and concentrated to give crude product tert-butyl 4-(1-((5-bromo-2-chloropyrimidin-4-yl)amino)ethyl)piperidine-1-carboxylate (7 g, yield: 97.2%) as a yellow oil. LRMS (M+H+) m/z: calcd 418. found 419.

reactant | tert-butyl 4-(1-aminoethyl)piperidine-1-carboxylate | 21.9 mmol, 5 g | NC(C)C1CCN(CC1)C(=O)OC(C)(C)C | C12H24N2O2
reactant | 5-bromo-2,4-dichloropyrimidine | 26.3 mmol, 5.97 g | BrC=1C(=NC(=NC1)Cl)Cl | C4HBrCl2N2
reactant | N-ethyl-N-isopropylpropan-2-amine | 65.7 mmol, 8.48 g | C(C)N(C(C)C)C(C)C | C8H19N
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | tert-butyl 4-(1-((5-bromo-2-chloropyrimidin-4-yl)amino)ethyl)piperidine-1-carboxylate | 7 g, yield: 97.2% | BrC=1C(=NC(=NC1)Cl)NC(C)C1CCN(CC1)C(=O)OC(C)(C)C | C16H24BrClN4O2
